US06420426B1
A solution of 4-fluoro-2-hydroxy-N-(4,5,7,-trifluoro-benzothiazol-2-ylmethyl)-benzamide (1.0 g, 2.8 mmol) in acetone (14 mL) was treated with aq 2 N K2CO3 (2.1 mL, 4.2 mmol) and ethyl bromoacetate (2 mL, 19 mmol) and heated to 45° C. for 5 h. After cooling to room temperature, the solution was acidified to a pH 1 with aq 2 N HCl. The resulting solution was diluted with ethyl acetate and washed with saturated NaCl. The organic layer was dried over MgSO4, filtered and concentrated. Purification by MPLC (10-100% ethyl acetate in heptane 23 mL/min, 75 min) provided {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid ethyl ester (1.0 g, 81%) as a white crystalline solid: 1H NMR (DMSO-d6 300 MHz) δ 9.32 (t, J=5.9 Hz, 1H), 7.94 (dd, J1=9.0 Hz, J2=7.2 Hz, 1H), 7.80-7.70 (m, 1H), 7.13 (dd, J1=11.1 Hz, J2=2.4 Hz, 1H), 6.95 (dt, J1=8.4 Hz, J2=2.5 Hz, 1H), 5.02 (s, 2H), 4.94 (d, J=6 Hz, 2H), 4.17 (q, J=7.2 Hz, 2H), 1.18 (t, J=7.1 Hz, 3H).

reactant | 4-fluoro-2-hydroxy-N-(4,5,7,-trifluoro-benzothiazol-2-ylmethyl)-benzamide | 2.8 mmol, 1.0 g | FC1=CC(=C(C(=O)NCC=2SC3=C(N2)C(=C(C=C3F)F)F)C=C1)O | C15H8F4N2O2S
reactant | K2CO3 | 4.2 mmol, 2 N, 2.1 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 19 mmol, 2 mL | BrCC(=O)OCC | C4H7BrO2
reactant | HCl | 2 N | Cl | ClH
solvent | acetone | 14 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {5-fluoro-2[(4,5,7-trifluoro-benzothiazol-2-ylmethyl)carbamoyl]-phenoxy}-acetic acid ethyl ester | 1.0 g, 81% | C(C)OC(COC1=C(C=CC(=C1)F)C(NCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C19H14F4N2O4S
